US04186135
In a similar manner to that of the above example, 82 g of levorotatory 1-ethyl-2-aminomethyl-pyrrolidine was reacted with 195 g of 7-methylsulfamoyl-1,4-benzodioxane-5-carbonyl chloride to give 151 g of levorotatory-N-(1-ethyl-2-pyrrolidylmethyl)-7-methylsulfamoyl-1,4-benzodioxane-5-carboxamide (M.P.: 136°-137° C.; yield: 62%).

reactant | 1-ethyl-2-aminomethyl-pyrrolidine | 82 g | C(C)N1C(CCC1)CN | C7H16N2
reactant | 7-methylsulfamoyl-1,4-benzodioxane-5-carbonyl chloride | 195 g | CNS(=O)(=O)C=1C=C(C2=C(OCCO2)C1)C(=O)Cl | C10H10ClNO5S
product | N-(1-ethyl-2-pyrrolidylmethyl)-7-methylsulfamoyl-1,4-benzodioxane-5-carboxamide | yield: 62% | C(C)N1C(CCC1)CNC(=O)C1=CC(=CC=2OCCOC21)S(NC)(=O)=O | C17H25N3O5S
